Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Malnutrition, weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with PMHx fecal transplant ___ (Dr. ___ at 
___ for C. difficile infection with chief complaint of weight 
loss, unable to be managed at home, referred in by ___ GI and 
PCP. Patient states that ever since she has had fecal transplant 
for C. difficile infection, has had mucoid bowel movements 
immediately after eating with significant gas pain, and finds 
herself fearful of eating and not wanting to eat because of 
this. Seen by ___ GI in ___ who was concerned patient was 
not taking in enough calories and with suspected lactose 
intolerance.  Patient was advised to increase her calories and 
avoid lactose but patient unable to do so.  Started dicyclomine 
without relief or change.  

Of note, patient formerly followed with Dr. ___ at ___ 
who performed fecal transplant.  Given symptoms of postprandial 
flatulence/bowel movements, he performed workup (i.e EGD, stool 
studies, colonoscopy) which was unremarkable, and thus patient 
given diagnosis of lactose intolerance and IBS.  Patient 
recently established care with Gastroenterology Dr. ___ 
second opinion regarding her symptoms.  

In the ED, initial VS were 98.4 64 110/70 16 100% RA 
Labs showed UA with mod leuk (no other abnormalities), platelets 
to 142.  
Received home dicyclomine
Transfer VS were afebrile, 68 ___ 100% RA 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports since fecal transplant 
in ___ has had gas and loose BMs every since she eats.  
Has been cutting foods out of her diet i.e gluten, diary, meat 
to see if things improve.  Has one BM daily now that she is not 
eating much.  She is fearful of eating anything for fear of 
immediate gas and mucoid bowel movements.  She feels as though 
she is too thin. Reports her normal body weight is 48kg. 

REVIEW OF SYSTEMS:  
(+) Feeling cold 
(-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
Fecal Transplant ___ for recurrent Cdiff infections 
acquired from dental infection treated with Clindamycin
Hx Hpylori treated in ___ 

PRIOR SURGICAL HISTORY:  
C-section x 3
 
Social History:
___
Family History:
Mother has thyroid disease.  Father died of alcohol-related 
disease.  Sister has thyroid disease.  An aunt
had colon CA at age ___.  There is no family history of peptic 
ulcer disease, celiac disease, colitis or ileitis.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=====================
VS:  98.0 103 / 64 56 16 100 RA 38Kg
GENERAL: NAD, very thin woman with sunken eyes
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: bradycardic rate, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
======================
VS: 97.8 ___ 97RA 38.4kg
GENERAL: NAD, very thin woman, alert and oriented, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: regular rate, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 01:57PM BLOOD WBC-5.4 RBC-4.26 Hgb-11.9 Hct-37.6 MCV-88 
MCH-27.9 MCHC-31.6* RDW-13.9 RDWSD-44.9 Plt ___
___ 01:57PM BLOOD Neuts-50.6 ___ Monos-4.7* Eos-5.4 
Baso-0.6 Im ___ AbsNeut-2.71 AbsLymp-2.06 AbsMono-0.25 
AbsEos-0.29 AbsBaso-0.03
___ 06:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-2+
___ 01:57PM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-139 
K-3.9 Cl-103 HCO3-24 AnGap-16
___ 02:04PM URINE Color-Straw Appear-Clear Sp ___
___ 02:04PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 02:04PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-2
___ 02:04PM URINE UCG-NEGATIVE

INTERVAL LABS:
============
___ 06:00AM BLOOD ALT-11 AST-14 AlkPhos-63 TotBili-0.5
___ 06:00AM BLOOD Lipase-45
___ 06:00AM BLOOD Albumin-3.8 Calcium-8.8 Phos-4.3 Mg-2.2
___ 06:50AM BLOOD VitB12-254 Folate-9
___ 06:00AM BLOOD TSH-4.3*
___ 06:50AM BLOOD 25VitD-39
___ 06:00AM BLOOD tTG-IgA-5
___ 11:42  Fecal Fat, Total, Quantitative - PENDING

DISCHARGE LABS:
=============
___ 06:10AM BLOOD WBC-3.9* RBC-4.25 Hgb-12.2 Hct-37.2 
MCV-88 MCH-28.7 MCHC-32.8 RDW-13.5 RDWSD-43.0 Plt ___
___ 06:10AM BLOOD Glucose-86 UreaN-13 Creat-0.8 Na-139 
K-4.3 Cl-101 HCO3-26 AnGap-16
___ 06:10AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0

MICROBIOLOGY:
============  
___ + PARASITES-PENDING
___ CULTURE-FINAL; CAMPYLOBACTER 
CULTURE-FINAL; OVA + PARASITES-FINAL NEGATIVE
___. difficile DNA amplification 
assay-FINALNEGATIVE
___ PYLORI ANTIBODY 
TEST-FINAL POSITIVE
___  Helicobacter Antigen Detection, StoolNEGATIVE

IMAGING/REPORTS:
==============
NONE
 
Brief Hospital Course:
___ with PMHx C.diff colitis s/p fecal transplant ___ 
who presented with six months of weight loss, post prandial 
loose stool and flatulence, admitted for protein-calorie 
malnutrition. 

# Post prandial loose stool and flatulence: Patient reports low 
volume, semi formed stool, with associated flatulence occurring 
post-prandially. Etiology likely functional IBS-D plus osmotic 
given symptoms worsen with lactose. Symptoms resolved with 
gluten free/lactose free diet and with the addition of 
dicyclomine. Having one formed bowel movement per day on 
discharge. Stool studies unremarkable. 

# Protein-Calorie Malnutrition: Admission weight 38kg from 
reported normal weight 48kg. Nutrition consulted.  In hospital 
calorie counts revealed patient consuming >100% of estimated 
calorie and protein needs. Given patient anxiety surrounding 
eating and fear of eating, psychiatry was consulted.  Psychiatry 
believe patient's food aversion is related to panic associated 
with post prandial flatulence and when patient has more than one 
BM per day. Patient has illness anxiety disorder and her 
symptoms are not consistent with a primary eating disorder. 
Celexa increased to 20mg per day. 

# Thrombocytopenia: low normal 

TRANSITIONAL ISSUES:
====================
Discharge weight: 38.4kg
- Pt with history of treated H.pylori; H.pylori stool antigen 
NEGATIVE.  
- Please communicate with patient the results of celiac blood 
testing; Ptatient with TTG Ab negative, the results of which 
returned after discharge.
- Please follow up stool fecal fat. 
- Please ensure patient given referral to ___ outpatient 
psychiatry department for medication management. Please ensure 
patient is connected with outpatient therapist who can do CBT, 
preferably in ___.  Has a provider ___, ___ 
___ who psychiatry contacted inpatient.  
- Nutrition provided handouts and verbal education for diet 
restrictions (gluten free and lactose free) and provided 
outpatient nutrition clinic information.  

Discharge Medications 
**NEW** 
Multivitamins W/minerals 1 TAB PO DAILY 
Ranitidine 150 mg PO DAILY:PRN acid reflux 
Simethicone 40-80 mg PO QID:PRN gas pain 
**CHANGED** 
Citalopram 20 mg PO DAILY 
**SAME** 
DICYCLOMine 10 mg PO QID 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DICYCLOMine 10 mg PO QID 
2. Citalopram 10 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Ranitidine 150 mg PO DAILY:PRN acid reflux 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  Simethicone 40-80 mg PO QID:PRN gas pain 
RX *simethicone 80 mg 1 tab by mouth four times a day Disp #*120 
Tablet Refills:*0 
4.  Citalopram 20 mg PO DAILY 
RX *citalopram 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  DICYCLOMine 10 mg PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Protein-Calorie Malnutrition
Illness Anxiety Disorder
Irritable Bowel Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after your gastroenterologist 
was concerned about your weight loss.  

Your stool did not show any infection.  It did not show H.pylori 
infection.

You were evaluated by the nutrition team.  Your diet was changed 
to gluten free and lactose free and your bowel movements became 
less frequent. 

You were evaluated by our psychiatry team because you and your 
husband were worried about your increased stress and your fear 
of eating.  Your dose of Celexa was increased, which should help 
reduce your anxiety over time.  

You will be called at home to schedule an appointment with your 
Gastroenterologist Dr. ___.

Please follow up with your new primary care doctor as scheduled 
this week.

Your new primary care doctor can refer you to a psychiatrist and 
therapist who can help you further moving forward.

Please follow the instructions that the nutritionist gave you in 
terms of following a gluten free and lactose free diet.  Please 
call the nutrition clinic number that was provided to you by the 
nutrition team to schedule a visit with a dietician.

Please seek immediate medical attention if you continue to lose 
weight, are unable to take in enough calories at home, or if 
your stool becomes bloody.

We wish you the best in health moving forward,

Your ___ Care Team
 
Followup Instructions:
___